US07820837B2
A mixture of 4-(chloromethyl)-7-hydroxy-2H-chromen-2-one (10.9 g, 51.8 mmol) and 1 M aqueous sodium hydroxide solution (500 mL) was heated under reflux for 2 hr. The reaction mixture was allowed to cool, acidified with conc. sulfuric acid and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give (6-hydroxy-1-benzofuran-3-yl)acetic acid (8.27 g, 83%) as brown crystals.

reactant | 4-(chloromethyl)-7-hydroxy-2H-chromen-2-one | 51.8 mmol, 10.9 g | ClCC1=CC(OC2=CC(=CC=C12)O)=O | C10H7ClO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | sodium hydroxide | 1 M, 500 mL | [OH-].[Na+]
product | (6-hydroxy-1-benzofuran-3-yl)acetic acid | 8.27 g, 83% | OC1=CC2=C(C(=CO2)CC(=O)O)C=C1 | C10H8O4
